US07446118B2
To a solution of 5-(2-hydroxy-1-phenyl-ethyl)-1H-indole-2-carbonitrile CCLXX (218 mg, 0.789 mmol) in tetrahydrofuran (10 mL) was added at 0° C. methanesulfonyl chloride (73 μL, 0.947 mmol) followed by triethylamine (0.16 mL, 1.183 mmol) and the resulting mixture was stirred at 0° C. for 3 hours. The precipitate which formed was filtered off and the filtrate was evaporated under reduced pressure. The crude residue was purified by flash chromatography to give 240 mg of methanesulfonic acid 2-(2-cyano-1H-indol-5-yl)-2-phenyl-ethyl ester CCLXXI.

reactant | 5-(2-hydroxy-1-phenyl-ethyl)-1H-indole-2-carbonitrile | OCC(C1=CC=CC=C1)C=1C=C2C=C(NC2=CC1)C#N | C17H14N2O
reactant | methanesulfonyl chloride | 0.947 mmol, 73 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.183 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | methanesulfonic acid 2-(2-cyano-1H-indol-5-yl)-2-phenyl-ethyl ester | 240 mg | C(#N)C=1NC2=CC=C(C=C2C1)C(COS(=O)(=O)C)C1=CC=CC=C1 | C18H16N2O3S
